US05144045
2-Nonadecynylpropanedioic acid, diethyl ester
A mixture of 16.5 g of 1-bromo-2-nonadecyne in 50 ml of ethanol is added to 3.0 g of 60% sodium hydride and 11.4 ml of diethyl malonate in 100 ml of ethanol. This mixture is stirred one hour and then evaporated. The residue is washed with ether, twice with dilute hydrochloric acid and brine. The residue is then purified by flash chromatography, (5% ethyl acetate:petroleum ether), to give 12.1 g of the desired compound as white needles, mp. 33°-34° C.

reactant | 1-bromo-2-nonadecyne | 16.5 g | BrCC#CCCCCCCCCCCCCCCCC | C19H35Br
reactant | sodium hydride | 3.0 g | [H-].[Na+]
reactant | diethyl malonate | 11.4 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Nonadecynylpropanedioic acid, diethyl ester | 12.1 g | C(#CCCCCCCCCCCCCCCCCC)C(C(=O)OCC)C(=O)OCC | C26H46O4
